US03994915
1 g. of ethyl 2-acetamido-3-oxo-5-phenylvalerate is dissolved in 4 ml. of thionyl chloride, and the solution heated for 15 minutes. The reaction mixture is then evaporated under vacuum to obtain a residue which is then washed with 10 ml. of 5% aqueous sodium bicarbonate solution, then extracted twice with 25 ml. of methylene chloride. The combined extracts are then evaporated under vacuum to obtain ethyl 2-methyl-5-phenethyl-4-oxazolecarboxylate as an oil.

reactant | ethyl 2-acetamido-3-oxo-5-phenylvalerate | C(C)(=O)NC(C(=O)OCC)C(CCC1=CC=CC=C1)=O | C15H19NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | ethyl 2-methyl-5-phenethyl-4-oxazolecarboxylate | CC=1OC(=C(N1)C(=O)OCC)CCC1=CC=CC=C1 | C15H17NO3
